US05856314
[(5-(3-Acetylthiopropyl)-2-pyridinyl)aminomethylene]-bis[phosphonic acid] is prepared by heating [(5-(3-acetylthiopropyl)-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester [prepared as described in Example A (part III) hereinbefore] at reflux in distilled water for 18 hours under an atmosphere of argon. The reaction mixture is concentrated under reduced pressure and the product is obtained by recrystallization from water and isopropanol.

reactant | [(5-(3-acetylthiopropyl)-2-pyridinyl)aminomethylene]bis[phosphonic acid] tetraethyl ester | C(C)OP(OCC)(=O)C(P(OCC)(OCC)=O)NC1=NC=C(C=C1)CCCSC(C)=O | C19H34N2O7P2S
solvent | water | O | H2O
product | [(5-(3-Acetylthiopropyl)-2-pyridinyl)aminomethylene]-bis[phosphonic acid] | C(C)(=O)SCCCC=1C=CC(=NC1)NC(P(O)(O)=O)P(O)(O)=O | C11H18N2O7P2S
